US09260441B2
Step A: Ethyl 2-(4-tert-butoxycarbonylpiperazin-1-yl)-5-methylamino-thiazole-4-carboxylate
To a solution of ethyl 2-bromo-5-methylamino-thiazole-4-carboxylate (401 mg, 1.512 mmol) and tert-butyl piperazine-1-carboxylate (1.06 g, 5.69 mmol) in anhydrous dioxane (15 ml) was added DIPEA (2 ml, 11.5 mmol) and the reaction was heated at 100° C. in a sealed flask for 23 hours. The mixture was cooled to room temperature, partitioned between DCM and sat. sodium bicarbonate solution and the phases were separated. The aqueous layer was extracted twice with DCM and the combined organic layers were dried (sodium sulfate) and concentrated under reduced pressure. The residue was purified by column chromatography (silica, gradient from 10 to 70% ethyl acetate in n-heptane) to yield 197 mg of a white solid (0.532 mmol, yield 35%) MS (multi-mode) m/z=371.2 [M+1]+.

reactant | ethyl 2-bromo-5-methylamino-thiazole-4-carboxylate | 1.512 mmol, 401 mg | BrC=1SC(=C(N1)C(=O)OCC)NC | C7H9BrN2O2S
reactant | tert-butyl piperazine-1-carboxylate | 5.69 mmol, 1.06 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | DIPEA | 11.5 mmol, 2 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | Ethyl 2-(4-tert-butoxycarbonylpiperazin-1-yl)-5-methylamino-thiazole-4-carboxylate | 0.532 mmol, 197 mg, yield 35% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=C(N1)C(=O)OCC)NC | C16H26N4O4S
